US04937252
Preparation of 3-phenylmethyl-2-thiazolidinone
To a solution of 2.73 g (0.01 mol) of 2-imino-3-phenylmethylthiazolidine hydrobromide in 10 ml of water 1.36 g of anhydrous sodium acetate and 0.62 ml of glacial acetic acid are added, then 0.75 g of sodium nitrite dissolved in 3 ml of water is dropped to the above mixture at 5° C. under stirring, then the mixture is stirred at 5° C. for additional 3 hours. After standing in a refrigerator overnight, the solution is stirred at room temperature for 3 hours. After rubbing, a precipitate appears which is filtered off, washed with water, dried and then refluxed with five volumes of n-butanol for 2 hours. After evaporating the solvent, the residue is thoroughly rubbed with diisopropyl ether and the product is filtered off. Thus, 0,81 g (42.3%) of the title product is obtained, m.p.: 49°-50° C.

reactant | 2-imino-3-phenylmethylthiazolidine hydrobromide | 0.01 mol, 2.73 g | Br.N=C1SCCN1CC1=CC=CC=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 0.62 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.75 g | N(=O)[O-].[Na+]
solvent | water | 10 ml, 1.36 g | O | H2O
solvent | water | 3 ml | O | H2O
product | 3-phenylmethyl-2-thiazolidinone | 0,81 g, 42.3% | C1(=CC=CC=C1)CN1C(SCC1)=O | C10H11NOS
